US08486943B2
(3-Allyloxy-pyridin-2-yl)-methanol
Hydroxy-2-(hydroxymethyl)pyridine hydrochloride (50 g, 339.6 mmol) and methanol (250 mL) are combined under nitrogen and cooled to 22° C. To the vigorously stirred mixture is added 4.5 M sodium methoxide in MeOH (170.8 mL, 747.2 mmol). The mixture is stirred at room temperature for 2 h and then the solvent is evaporated. The resulting material is dissolved in DMSO (250 mL), allyl bromide (41 g, 339.6 mmoles) is added, and the mixture stirred for 18 h at room temperature. The reaction mixture is added to water (800 mL) and extracted with methylene chloride (3×80 mL). The organic portions are combined and dried over sodium sulfate, filtered, and the solvent evaporated to afford the title compound (34.4 g, 62%). LC-ES/MS m/z 166.1 [M+H]+.

reactant | Hydroxy-2-(hydroxymethyl)pyridine hydrochloride | 339.6 mmol, 50 g | Cl.OC=1C(=NC=CC1)CO
reactant | methanol | 250 mL | CO | CH4O
reactant | sodium methoxide | 4.5 M | C[O-].[Na+]
reactant | MeOH | 747.2 mmol, 170.8 mL | CO | CH4O
reactant | allyl bromide | 339.6 mmoles, 41 g | C(C=C)Br | C3H5Br
solvent | water | 800 mL | O | H2O
product | (3-Allyloxy-pyridin-2-yl)-methanol | 34.4 g, 62% | C(C=C)OC=1C(=NC=CC1)CO | C9H11NO2
